US06881733B1
A solution of 0.483 gm (1.34 mMol) 1-(tert-butoxycarbonyl)-3,3-dimethyl-4-trifluoromethanesulfonyloxy-1,2,3,6-tetrahydropyridine in 5 mL previously deoxygenated 9:1 toluene:n-propanol was placed under vacuum and pressurized with nitrogen three times to exclude oxygen. To this solution were added 0.008 gm (0.036 mMol) palladium acetate and 0.024 gm (0.092 mMol) triphenylphosphine and the resulting mixture was stirred for 15 minutes. Then 0.28 gm (1.41 mMol) 4,5-difluorobenzofur-7-ylboronic acid, 0.085 gm (2.0 mMol) lithium chloride, and 0.74 mL (1.48 mMol) of previously deoxygenated 2.0 M aqueous sodium carbonate were added to the reaction mixture. The mixture was deoxygenated by subjecting it three times to a vacuum/nitrogen cycle, was heated to reflux for 4 hours, and was stirred at room temperature for 16 hours. The reaction mixture was then partitioned between water and diethyl ether. The aqueous phase was extracted well with diethyl ether and all of the organic phases were combined, dried over sodium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel chromatography, eluting with 20% ethyl acetate in hexanes. Fractions containing product were combined and concentrated under reduced pressure to provide 0.374 gm (76.6%) 1-(tert-butoxycarbonyl)-3,3-dimethyl-4-(4,5-difluorobenzofur-7-yl)-1,2,3,6-tetrahydropyridine as a crystalline white solid. A solution of 0.246 gm (0.68 mMol) 1-(tert-butoxycarbonyl)-3,3-dimethyl-4-(4,5-difluorobenzofur-7-yl)-1,2,3,6-tetrahydropyridine in 3 mL 2 M hydrogen chloride in ethyl acetate was stirred at room temperature for 3 hours. The reaction mixture was concentrated under reduced pressure to provide 0.202 gm of the title compound as an off-white solid.

reactant | 1-(tert-butoxycarbonyl)-3,3-dimethyl-4-trifluoromethanesulfonyloxy-1,2,3,6-tetrahydropyridine | 1.34 mMol, 0.483 gm | C(C)(C)(C)OC(=O)N1CC(C(=CC1)OS(=O)(=O)C(F)(F)F)(C)C | C13H20F3NO5S
reactant | oxygen | O=O | O2
reactant | 4,5-difluorobenzofur-7-ylboronic acid | 1.41 mMol, 0.28 gm | FC1=C(C=C(C2=C1C=CO2)B(O)O)F | C8H5BF2O3
reactant | lithium chloride | 2.0 mMol, 0.085 gm | [Cl-].[Li+]
reactant | sodium carbonate | 2.0 M | C([O-])([O-])=O.[Na+].[Na+]
catalyst | palladium acetate | 0.036 mMol, 0.008 gm | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | triphenylphosphine | 0.092 mMol, 0.024 gm | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | n-propanol | C(CC)O | C3H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-(tert-butoxycarbonyl)-3,3-dimethyl-4-(4,5-difluorobenzofur-7-yl)-1,2,3,6-tetrahydropyridine | 0.374 gm, 76.6% | C(C)(C)(C)OC(=O)N1CC(C(=CC1)C1=CC(=C(C=2C=COC21)F)F)(C)C | C20H23F2NO3
